US06133271
With the procedure of Example 1, the reaction of phenethylamine with 4-chloro-2-(isoxazol-5-yl)-5,6-dimethyl-thieno-[2,3-d]-pyrimidine yields 2-(isoxazol-5-yl)-4-phenethylamino-5,6-dimethyl-thieno-[2,3-d]-pyrimidine.

reactant | phenethylamine | C(CC1=CC=CC=C1)N | C8H11N
reactant | 4-chloro-2-(isoxazol-5-yl)-5,6-dimethyl-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=CC=NO1)SC(=C2C)C | C11H8ClN3OS
product | 2-(isoxazol-5-yl)-4-phenethylamino-5,6-dimethyl-thieno-[2,3-d]-pyrimidine | O1N=CC=C1C=1N=C(C2=C(N1)SC(=C2C)C)NCCC2=CC=CC=C2 | C19H18N4OS
